US07442698B2
A resealable tube was charged with (2-chloro-pyrimidin-4-yl)-(2,4-dimethoxy-phenyl)carbamic acid pyridin-3-ylmethyl ester (0.100 g, 0.249 mol), 3-(methyloxy)-4-(4-methyl-1-piperazinyl)aniline (0.100 g, 0.45 mmol), and isopropanol (2 mL). Trifluoroacetic acid (0.074 g, 0.050 mL, 0.65 mmol) was added. The tube was sealed and the mixture was heated at 60° C. for 20 h. The reaction mixture was cooled to room temperature and concentrated to afford a pale purple oil. The resulting solution was diluted with ethyl acetate and the mixture was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was separated, dried over anhydrous sodium sulfate, filtered, and concentrated to afford an oil. This oil was purified via column chromatography on silica gel (gradient elution with 0-100% dichloromethane-(90:10:1, dichloromethane/methanol/ammonium hydroxide)) to afford 3-pyridinylmethyl 2,4-bis(methyloxy)-phenyl(2-((3-(methyloxy)-4-(4-methyl-1-piperazinyl)phenyl)amino)-4-pyrimidinyl)-carbamate as an off-white solid. MS (MH+) 586; Calculated 585.66 for C31H35N7O5.

reactant | (2-chloro-pyrimidin-4-yl)-(2,4-dimethoxy-phenyl)carbamic acid pyridin-3-ylmethyl ester | 0.249 mol, 0.100 g | N1=CC(=CC=C1)COC(N(C1=C(C=C(C=C1)OC)OC)C1=NC(=NC=C1)Cl)=O | C19H17ClN4O4
reactant | 3-(methyloxy)-4-(4-methyl-1-piperazinyl)aniline | 0.45 mmol, 0.100 g | COC=1C=C(N)C=CC1N1CCN(CC1)C | C12H19N3O
reactant | isopropanol | 2 mL | C(C)(C)O | C3H8O
reactant | Trifluoroacetic acid | 0.65 mmol, 0.050 mL, 0.074 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-pyridinylmethyl 2,4-bis(methyloxy)-phenyl(2-((3-(methyloxy)-4-(4-methyl-1-piperazinyl)phenyl)amino)-4-pyrimidinyl)-carbamate | COC1=C(C=CC(=C1)OC)N(C(OCC=1C=NC=CC1)=O)C1=NC(=NC=C1)NC1=CC(=C(C=C1)N1CCN(CC1)C)OC | C31H35N7O5
